US07351700B2
4-Diethoxymethyl-2-hexylsulfanyl-6-trifluoromethyl-pyrimidine
5,5-Diethoxy-1,1,1-trifluoro-pent-3-yn-2-one (2 g, 8.9 mmol) and 2-hexyl-isothiourea hydrobromide (2.4 g, 9.8 mmol) were dissolved under nitrogen in THF (20 mL). Then triethylamine (2.7 mL, 19.6 mmol) was added slowly. The reaction was exothermic (40° C.). The suspension was stirred for 4 h at 20° C. The product was extracted with AcOEt, sat. NH4Cl solution, dried and concentrated. The residue was purified by silica gel chromatography in heptane/AcOEt 20:1. One obtained 2.5 g (76%) of a colorless oil. MS: m/z=367 (M+H).

reactant | 5,5-Diethoxy-1,1,1-trifluoro-pent-3-yn-2-one | 8.9 mmol, 2 g | C(C)OC(C#CC(C(F)(F)F)=O)OCC | C9H11F3O3
reactant | 2-hexyl-isothiourea hydrobromide | 9.8 mmol, 2.4 g | Br.C(CCCCC)SC(N)=N
reactant | triethylamine | 19.6 mmol, 2.7 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Diethoxymethyl-2-hexylsulfanyl-6-trifluoromethyl-pyrimidine | 2.5 g, 76% | C(C)OC(C1=NC(=NC(=C1)C(F)(F)F)SCCCCCC)OCC | C16H25F3N2O2S
